US05686424
Using the procedure described in example 5, treatment of L-proline-L-isoleucine benzylamide (200 mg, 0.63 mmol), with sodium carbonate (100 mg, 0.94 mmol), and 2-chloroacetyl-5-chloro-3-methylbenzo[B]thiophene (Ryan Scientific; Columbia, S.C.: 244 mg, 0.941 mmol, 1.5 eq) in acetonitrile (10 mL), provided 170 mg (50%) of L-isoleucine, N-[1-(2-(5-chloro-3-methyl-benzo[B]thiophene-2-yl)-2-oxoethyl)-L-prolyl] benzylamide as a pale yellow oil that formed a waxy solid on standing.

reactant | L-proline L-isoleucine benzylamide | 0.63 mmol, 200 mg | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
reactant | sodium carbonate | 0.94 mmol, 100 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-chloroacetyl-5-chloro-3-methylbenzo[B]thiophene | 0.941 mmol, 244 mg, 1.5 eq | ClCC(=O)C1=C(C2=C(S1)C=CC(=C2)Cl)C | C11H8Cl2OS
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | L-isoleucine, N-[1-(2-(5-chloro-3-methyl-benzo[B]thiophene-2-yl)-2-oxoethyl)-L-prolyl] benzylamide | 170 mg, 50% | ClC1=CC2=C(SC(=C2C)C(CN2[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC3=CC=CC=C3)CCC2)=O)C=C1 | C29H34ClN3O3S
